US07915270B2
1-(5-(2-Nitrophenyl)oxazol-2-yl)-7-phenylheptan-1-one
2-(1-(tert-Butyldimethylsilyloxy)-7-phenylheptyl)-5-(2-nitrophenyl)oxazole. The title compound was prepared from 2-(1-(tert-butyldimethylsilyloxy)-7-phenylheptyl)-5-(tributylstannyl)oxazole (75 mg, 0.113 mmol) and 1-iodo-2-nitrobenzene following General Procedure A. Flash chromatography (3-10% EtOAc/hexanes) yielded the title compound as a yellow oil (58 mg, 97%): 1H NMR (CDCl3, 300 MHz) δ 7.82 (dd, 1 H, J=9.2, 6.3 Hz), 7.70 (dd, 1H, J=9.3, 6.0 Hz), 7.67-7.64 (m, 1H), 7.51-7.49 (m, 1H), 7.32-7.25 (m, 3H), 7.19-7.16 (m, 3H), 4.82 (t, 1H, J=6.7 Hz), 2.60 (t, 2H, J=7.5 Hz), 1.88-1.86 (m, 2H), 1.64-1.60 (m, 2H), 1.35-1.26 (m, 6H), 0.90 (s, 9H), 0.10 (s, 3H), 0.00 (s, 3H); 13C NMR (CDCl3, 75 MHz) δ 171.5, 152.5, 151.1, 148.0, 137.6, 134.6, 134.5, 133.6, 133.4, 131.3, 130.7, 129.6, 127.1, 73.8, 41.6, 41.1, 36.6, 34.3, 34.3, 30.9, 30.1, 23.4, 0.2, 0.0.

reactant | 2-(1-(tert-Butyldimethylsilyloxy)-7-phenylheptyl)-5-(2-nitrophenyl)oxazole | [Si](C)(C)(C(C)(C)C)OC(CCCCCCC1=CC=CC=C1)C=1OC(=CN1)C1=C(C=CC=C1)[N+](=O)[O-] | C28H38N2O4Si
reactant | 2-(1-(tert-butyldimethylsilyloxy)-7-phenylheptyl)-5-(tributylstannyl)oxazole | 0.113 mmol, 75 mg | [Si](C)(C)(C(C)(C)C)OC(CCCCCCC1=CC=CC=C1)C=1OC(=CN1)[Sn](CCCC)(CCCC)CCCC
reactant | 1-iodo-2-nitrobenzene | IC1=C(C=CC=C1)[N+](=O)[O-] | C6H4INO2
product | 1-(5-(2-Nitrophenyl)oxazol-2-yl)-7-phenylheptan-1-one | 58 mg, 97% | [N+](=O)([O-])C1=C(C=CC=C1)C1=CN=C(O1)C(CCCCCCC1=CC=CC=C1)=O | C22H22N2O4
